US05266698
To a solution of Ethyl 2-isocyanato-3-(dimethylamino)-propenoate (5.52 g) in toluene (250 mL) was added aniline (2.79 g). The reaction was stirred at room temperature for 30 min. The resulting solid was collected and dried to yield N-(1-Carboethoxy-2-dimethylaminovinyl)-N'-phenyl urea as a white solid.

reactant | Ethyl 2-isocyanato-3-(dimethylamino)-propenoate | 5.52 g | N(=C=O)C(C(=O)OCC)=CN(C)C | C8H12N2O3
reactant | aniline | 2.79 g | NC1=CC=CC=C1 | C6H7N
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | N-(1-Carboethoxy-2-dimethylaminovinyl)-N'-phenyl urea | C(=O)(OCC)C(=CN(C)C)NC(=O)NC1=CC=CC=C1 | C14H19N3O3
